US04016166
To a solution of 2.8 g of 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione and 20 ml of dimethylformamide was added 4.2 g of trimethyl phosphate and the whole was refluxed for 5 hours. After the reaction was complete, the solvent was distilled off from the reaction mixture under reduced pressure. To the residue thus obtained was added water to precipitate a crude product. This product was recrystallized from methanol to yield 2.4 g of 1-(m-nitrophenyl)-3-methylquinazoline-2,4(1H, 3H)-dione as colorless needles, melting at 241°-242° C.

reactant | 1-(m-nitrophenyl)quinazoline-2,4(1H, 3H)-dione | 2.8 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(NC(C2=CC=CC=C12)=O)=O | C14H9N3O4
reactant | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
reactant | trimethyl phosphate | 4.2 g | P(=O)(OC)(OC)OC | C3H9O4P
solvent | water | O | H2O
product | 1-(m-nitrophenyl)-3-methylquinazoline-2,4(1H, 3H)-dione | 2.4 g | [N+](=O)([O-])C=1C=C(C=CC1)N1C(N(C(C2=CC=CC=C12)=O)C)=O | C15H11N3O4
